US04979978
Preparation of Methyl 4-Chloro-12H-dibenzo[d,g][1.3]dioxocin-6-carboxylate
4-Chloro-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylic acid (6.24 g of impure from Ex. 11, 22 mmol) was treated with methanol using the procedure of Examples 3 and 7. The crude product was purified by preparative liquid chromatography eluting with a 10:90 mixture of acetone and hexane to obtain 1.0 g (15 percent of theory) of the title compound as a solid melting at 107°-108° C. The proton nmr spectrum was consistent with the assigned structure.

reactant | 4-Chloro-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylic acid | 22 mmol, 6.24 g | ClC1=CC=CC2=C1OC(OC1=C(C2)C=CC=C1)C(=O)O | C15H11ClO4
reactant | methanol | CO | CH4O
product | Methyl 4-Chloro-12H-dibenzo[d,g][1.3]dioxocin-6-carboxylate | ClC1=CC=CC2=C1OC(OC1=C(C2)C=CC=C1)C(=O)OC | C16H13ClO4
